US07153635B1
Preparation of Sodium 6-Bromohexanoate:
To a well-mixed solution of 20 g of water and 14.6 g of 6-bromohexanoic acid (0.075 mole) at 20° C. was added a 5.0M NaOH solution to adjust the pH to 7.5 (˜0.075 mole). The water was removed under vacuum and the resulting solid was ground to a free-flowing white powder.

reactant | 6-bromohexanoic acid | 0.075 mole, 14.6 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | NaOH | 5.0M | [OH-].[Na+]
solvent | water | 20 g | O | H2O
product | Sodium 6-Bromohexanoate | BrCCCCCC(=O)[O-].[Na+] | InChI=1S/C6H11BrO2.Na/c7-5-3-1-2-4-6(8)9;/h1-5H2,(H,8,9);/q;+1/p-1
